US06262045B1
10.5. 1-(Bromomethyl)-8-fluoro-5-(methoxymethyl)-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-4-one
4.5 g (17.1 mmol) of triphenylphosphine are added to a solution of 3.2 g (9 mmol) of 8-fluoro-1-(hydroxymethyl)-5-(methoxymethyl)-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-4-one and of 6.3 g (19 mmol) of tetrabromomethane in 200 ml of dichloromethane. The mixture is stirred for 2 h, 50 ml of cyclohexane are added and the precipitate is collected by filtration and dried under reduced pressure. 2.9 g (7 mmol) of solid are isolated, which solid is used as is in the following stage.

reactant | triphenylphosphine | 17.1 mmol, 4.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 8-fluoro-1-(hydroxymethyl)-5-(methoxymethyl)-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-4-one | 9 mmol, 3.2 g | FC1=CC=2C3=C(N(C2C=C1)COC)C(N(N=C3CO)C3=CC=CC=C3)=O | C19H16FN3O3
reactant | tetrabromomethane | 19 mmol, 6.3 g | BrC(Br)(Br)Br | CBr4
reactant | cyclohexane | 50 ml | C1CCCCC1 | C6H12
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 1-(Bromomethyl)-8-fluoro-5-(methoxymethyl)-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-4-one | 7 mmol, 2.9 g | BrCC1=NN(C(C=2N(C=3C=CC(=CC3C21)F)COC)=O)C2=CC=CC=C2 | C19H15BrFN3O2
